US07442701B2
Description 17: 1-Methyl-5-nitroquinolinium iodide
5-Nitroquinoline (4 g, 30 mmol) was melted at 85° C., prior to addition of dimethyl sulfate (2.2 ml, 30 mmol), and the resulting mixture was stirred at this temperature for 1.5 hours. The yellow gel was dissolved in water (35 ml) and cooled to room temperature. A saturated aqueous solution of potassium iodide (7.63 g, 45.9 mmol) was added, and the resulting orange precipitate was filtered, washing the residue with chilled water. After drying under vacuum at 60° C., for 2 hours, the brick-red solid was used in the next step without purification.

reactant | 5-Nitroquinoline | 30 mmol, 4 g | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1 | C9H6N2O2
reactant | dimethyl sulfate | 30 mmol, 2.2 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium iodide | 45.9 mmol, 7.63 g | [I-].[K+]
solvent | water | 35 ml | O | H2O
product | 1-Methyl-5-nitroquinolinium iodide | [I-].C[N+]1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | InChI=1S/C10H9N2O2.HI/c1-11-7-3-4-8-9(11)5-2-6-10(8)12(13)14;/h2-7H,1H3;1H/q+1;/p-1
